US09085575B2
254 mg (2.93 mmol) of manganese oxide is added to 300 mg (0.45 mmol) of ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in solution in 10 ml of dichloromethane. The reaction mixture is placed in an ultrasonic bath for 5 minutes and then stirred at room temperature for 20 hours. It is then filtered on silica (eluent: 65:35 cyclohexane/ethyl acetate) to yield 254 mg (85%) of ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in the form of a yellow solid.

reactant | ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-4,7-dihydro-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.45 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1C2=C(NC(=C1C(=O)OCC)C1=C(C(=CC=C1F)F)F)NN=C2C=2SC=CC2 | C34H34F3N5O4S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | manganese oxide | 2.93 mmol, 254 mg | [O-2].[Mn+2]
product | ethyl 4-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)phenyl)-3-(thiophen-2-yl)-6-(2,3,6-trifluorophenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 254 mg, 85% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=C2C(=NC(=C1C(=O)OCC)C1=C(C(=CC=C1F)F)F)NN=C2C=2SC=CC2 | C34H32F3N5O4S
